### PR TITLE
[Merged by Bors] - refactor: `reduceOption_length_le`

### PR DESCRIPTION
**Pull request by BoltonBailey**
Reproves `reduceOption_length_eq_iff` and `reduceOption_length_le` with new auxiliary lemmas - primarily `length_eq_reduceOption_length_add_filter_none`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Did you PR just the code movement separately? (I could've sworn I saw this somewhere...)
I'd approve (I don't have review rights) such a PR quickly, and it might speed up the review of just this change also.

**Comment by BoltonBailey** [comment]
I have PRed a couple of Data.List.Basic file splits recently, perhaps that's what you are thinking of?

**Comment by BoltonBailey** [comment]
Hmm, obviously it was #11662, let me rethink this PR

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -2862,6 +2862,13 @@ theorem length_lookmap (l : List α) : length (l.lookmap f) = length l := by
 end Lookmap
 
 /-! ### filter -/
+
+theorem length_eq_length_filter_add {l : List (α)} (f : α → Bool) :
+    l.length = (l.filter f).length + (l.filter (Bool.not ∘ f)).length := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/List/Basic.lean:2867]: Should this be phrased with `(! ·)` instead of `Bool.not`?

Proof could probably also be
```
theorem length_eq_length_filter_add {l : List (α)} (f : α → Bool) :
    l.length = (l.filter f).length + (l.filter ((! ·) ∘ f)).length := by
  simp_rw [← List.countP_eq_length_filter, List.length_eq_countP_add_countP f, Function.comp_def, Bool.not_eq_true, Bool.decide_eq_false]
```
(the Bool/Prop confusion is annoying...)

File: Mathlib/Data/List/ReduceOption.lean [hunk 2]
```diff
@@ -49,29 +52,25 @@ theorem reduceOption_append (l l' : List (Option α)) :
...
-        reduceOption_cons_of_none, length, Option.isSome_none, iff_false_iff]
-      intro H
-      have := reduceOption_length_le tl
-      rw [H] at this
-      exact absurd (Nat.lt_succ_self _) (not_lt_of_le this)
-    · simp only [length, mem_cons, forall_eq_or_imp, Option.isSome_some, ← hl, reduceOption,
-        true_and]
-      omega
+  rw [length_eq_reduceOption_length_add_filter_none]
+  simp [length_eq_zero, filter_eq_nil]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/List/ReduceOption.lean:73]:
```suggestion
  rw [reduceOption_length_eq, List.filter_length_eq_length]
```

File: Mathlib/Data/Option/Basic.lean [hunk 3]
```diff
@@ -438,4 +438,28 @@ theorem elim_comp₂ (h : α → β → γ) {f : γ → α} {x : α} {g : γ →
 theorem elim_apply {f : γ → α → β} {x : α → β} {i : Option γ} {y : α} :
     i.elim x f y = i.elim (x y) fun j => f j y := by rw [elim_comp fun f : α → β => f y]
 
+@[simp]
+lemma bnot_isSome (a : Option α) : a.isSome.not = a.isNone := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Option/Basic.lean:442]: Same questions about `Bool.not` in this file

File: Mathlib/Data/List/Basic.lean (hunk 1 above)
Comment (BoltonBailey) [reply Mathlib/Data/List/Basic.lean:2867]: \comp reminds me of point-free style, but this is a golf, so sure. Even better seems to be to use pointful notation and remove the comp - it seems to golf the proof a bit and doesn't mess things up down the road.

File: Mathlib/Data/Option/Basic.lean (hunk 3 above)
Comment (BoltonBailey) [reply Mathlib/Data/Option/Basic.lean]: Ok, I figured out what I was doing wrong, this is now fixed

**Comment by BoltonBailey** [comment]
Made https://github.com/leanprover-community/batteries/pull/808 for the propositional not issue.

File: Mathlib/Data/Option/Basic.lean [hunk 4]
```diff
@@ -438,4 +438,28 @@ theorem elim_comp₂ (h : α → β → γ) {f : γ → α} {x : α} {g : γ →
 theorem elim_apply {f : γ → α → β} {x : α → β} {i : Option γ} {y : α} :
     i.elim x f y = i.elim (x y) fun j => f j y := by rw [elim_comp fun f : α → β => f y]
 
+@[simp]
+lemma bnot_isSome (a : Option α) : (! a.isSome) = a.isNone := by
+  funext
+  cases a <;> simp
+
+@[simp]
+lemma not_comp_isSome : (! ·) ∘ @Option.isSome α = Option.isNone := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Option/Basic.lean:447]: Maybe this should be `bnot` as well?

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
